US05041673
A mixture of α,α-diethoxymethyl-β-nitro-2-naphthalenepropanol (4.7 g) and Raney nickel in isopropanol (80 ml) was stirred under hydrogen at atmospheric pressure. When absorption of hydrogen was complete the mixture was degased in vacuo for 15 minutes and filtered through celite. Evaporation of the solvent in vacuo yielded α, α-diethoxymethyl-β-amino-2-naphthalenepropanol (3.69 g) as an oil.

reactant | α,α-diethoxymethyl-β-nitro-2-naphthalenepropanol | 4.7 g | C(C)OCC(C(CC1=CC2=CC=CC=C2C=C1)[N+](=O)[O-])(O)COCC | C19H25NO5
catalyst | Raney nickel | [Ni] | Ni
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | α, α-diethoxymethyl-β-amino-2-naphthalenepropanol | 3.69 g | C(C)OCC(C(CC1=CC2=CC=CC=C2C=C1)N)(O)COCC | C19H27NO3
